US04059590
A solution of 13.5 g (0.1 mol) phenyl isothiocyanate and 6.5 g (0.1 mol) potassium cyanide in 100 ml ethanol and 40 ml water was stirred at about 25° C for 1 hour. The solution was then diluted with water, slurried with charcoal and filtered. The filtrate was acidified with concentrated hydrochloric acid. An oil was separated on acidification. The oil solidified on standing and the resulting solid was filtered. The solid was then recrystallized from benzene/hexane to give 12.8 g N-phenyl cyanothioformamide, as a orange solid melting at 73°-81° C.

reactant | phenyl isothiocyanate | 0.1 mol, 13.5 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | potassium cyanide | 0.1 mol, 6.5 g | [C-]#N.[K+]
reactant | charcoal | C | CH4
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | N-phenyl cyanothioformamide | 12.8 g | C1(=CC=CC=C1)N(C=S)C#N | C8H6N2S
